US09120749B2
tert-Butyl 4-[5-(6-bromo-3-butyrylquinolin-4-ylamino)pyridin-2-yl]piperazine-1-carboxylate
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one (360 mg, 1.15 mmol) was reacted with tert-butyl 4-(5-aminopyridin-2-yl)piperazine-1-carboxylate (480 mg, 1.73 mmol) to afford the desired product (440 mg, 69%) as an orange solid: ESI MS m/z 554 [C27H32BrN5O3+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one | 1.15 mmol, 360 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)Cl | C13H11BrClNO
reactant | tert-butyl 4-(5-aminopyridin-2-yl)piperazine-1-carboxylate | 1.73 mmol, 480 mg | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
product | tert-Butyl 4-[5-(6-bromo-3-butyrylquinolin-4-ylamino)pyridin-2-yl]piperazine-1-carboxylate | 440 mg, 69% | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C27H32BrN5O3
